US20010044407A1
A suspension of 25.7 g (186 mmol) of potassium carbonate were heated to reflux with stirring. At this temperature, over the course of 5 h, a mixture of 15.3 g (93.2 mmol) of 1-methylindane-5,6-diol and 11.6 g (92.8 mmol) of 3-chloro-2-chloromethylprop-1-ene dissolved in 50 ml of dioxane was added dropwise. When addition was complete, the mixture was stirred for a further 1 h under reflux and the inorganic solids precipitated out were filtered off with suction after cooling the reaction mixture. The solids were washed with acetone and the combined organic phases freed from solvent on a rotary evaporator. After flash chromatography (pentane/ether, 19:1, Rf=0.66) on silica gel, 7.3 g (36%) of 1-methyl-7-methylene-2,3,7,8-tetrahydro-1H,6H-5,9-dioxacyclohepta[f]indene were obtained.

reactant | potassium carbonate | 186 mmol, 25.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methylindane-5,6-diol | 93.2 mmol, 15.3 g | CC1CCC2=CC(=C(C=C12)O)O | C10H12O2
reactant | 3-chloro-2-chloromethylprop-1-ene | 92.8 mmol, 11.6 g | ClCC(=C)CCl | C4H6Cl2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-methyl-7-methylene-2,3,7,8-tetrahydro-1H,6H-5,9-dioxacyclohepta[f]indene | 7.3 g, 36% | CC1CCC=2C=C3C(=CC12)OCC(CO3)=C | C14H16O2
